US07981903B2
Two separate suspensions of 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (6.25 g, 13.59 mmol), 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (3.90 g, 15.63 mmol), KI (2.256 g, 13.59 mmol), and HCl (4.0M Solution in dioxane, 13.59 ml, 54.4 mmol) in 2,2,2-trifluoroethanol (200 ml) were warmed at 90° C. for 16 hours in sealed pressure flasks. The reactions were cooled, combined, and poured into dichloromethane/saturated sodium bicarbonate and the organic layers taken to a residue under reduced pressure and triturated with diethyl ether to afford 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (15 g, 22.9 mmol, 84%). A solution of the 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (500 mg, 0.763 mmol) and 2.0M ethylamine in tetrahydrofuran (2.67 ml, 5.34 mmol) in THF(10 ml) was stirred at room temperature for 16 hours. The crude reaction mixture was stripped onto celite and purified by chromatography on SiO2 to afford 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-N-ethyl-6-fluorobenzamide (275 mg, 0.392 mmol, 51.5%) as a pale brown solid. A suspension of 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-N-ethyl-6-fluorobenzamide (0.275 g, 0.392 mmol) in 1,4 dioxane/2.0 N NaOH was heated at 120° C. for 11 minutes in a microwave. The resulting solution was poured into ethyl acetate/saturated sodium chloride and the organic layer was dried over sodium sulfate, filtered, stripped onto celite, and purified by chromatography to afford 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-N-ethyl-6-fluorobenzamide (150 mg, 0.274 mmol, 70%). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.21 (s, 1H), 9.91 (s, 1H), 8.59 (s, 1H), 8.55 (t, J=5.77 Hz, 1H), 8.27 (d, J=8.42 Hz, 1H), 7.52 (s, 1H), 7.20-7.34 (m, 1H), 6.87-6.95 (m, 2H), 6.84 (d, J=9.34 Hz, 1H), 6.22 (s, 1H), 4.13 (t, J=8.42 Hz, 2H), 3.73 (s, 3H), 3.18-3.26 (m, 2H), 3.13 (s, 2H), 3.07 (t, J=8.24 Hz, 2H), 2.21 (s, 6H), 0.97-1.13 (m, 3H). ESIMS (M+H)+=547.

reactant | 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-N-ethyl-6-fluorobenzamide | 0.392 mmol, 0.275 g | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NCC)C(=CC=C2)F)OC)C | C35H37FN8O5S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4 dioxane | 2.0 N | O1CCOCC1 | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-N-ethyl-6-fluorobenzamide | 0.274 mmol, 150 mg, 70% | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NCC)C(=CC=C2)F)OC)C | C28H31FN8O3
